US06599893B2
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid 2,2-dimethylpropionyloxymethyl ester (54)
To a stirring solution of (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid, sodium salt (65 mg, 0.117 mmol) in DMF (0.3 mL) under nitrogen was added iodomethyl pivalate (31 mg, 0.128 mmol). After 1 h, water was added dropwise, and the precipitated product was removed by filtration to give 60.9 mg of the title compound.

reactant | (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)O)SC=1SC(=NN1)N)=NO)Cl | C14H11ClN8O5S4
reactant | sodium | 0.117 mmol, 65 mg | [Na] | Na
reactant | iodomethyl pivalate | 0.128 mmol, 31 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | water | O | H2O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid 2,2-dimethylpropionyloxymethyl ester | 60.9 mg | CC(C(=O)OCOC(=O)C=1N2C([C@H](C2SCC1SC=1SC(=NN1)N)NC(C(=NO)C=1N=C(SC1Cl)N)=O)=O)(C)C | C20H21ClN8O7S4
